US08431563B2
Following the procedure outlined for Example 69, 3-methoxyphenylboronic acid (26.4 mg, 0.173 mmol, Aldrich, St. Louis, Mo.) was coupled to 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol to afford 1,1,1,3,3,3-hexafluoro-2-(3′-methoxy-6-(4-(2-thiophenylsulfonyl)-1-piperazinyl)-3-biphenylyl)-2-propanol. 1H NMR (400 MHz, CD3OD) δ 7.91 (dd, J=4.9, 1.2 Hz, 1H), 7.61-7.54 (m, 2H), 7.49 (d, J=1.2 Hz, 1H), 7.40 (d, J=8.8 Hz, 2H), 7.28 (dd, J=4.9, 3.9 Hz, 1H), 7.11 (d, J=8.6 Hz, 1H), 6.87 (d, J=8.6 Hz, 2H), 3.81 (s, 3H), 2.95 (br. s, 8H). m/z (ESI, +ve ion) 580.8 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=3.34 μM; GK-GKRP EC50 (LC MS/MS)=1.82 μM.

reactant | 3-methoxyphenylboronic acid | 0.173 mmol, 26.4 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
product | 1,1,1,3,3,3-hexafluoro-2-(3′-methoxy-6-(4-(2-thiophenylsulfonyl)-1-piperazinyl)-3-biphenylyl)-2-propanol | FC(C(C(F)(F)F)(O)C=1C=C(C(=CC1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C1=CC(=CC=C1)OC)(F)F | C24H22F6N2O4S2
